US04940703
(a) 3-Cyano-3-hydroxyquinuclidine
To a cooled (ice bath), stirred solution of 3-quinuclidinone hydrochloride (300 g) in water (400 ml) was added dropwise a solution of sodium cyanide (90.97 g) in water (400 ml). After stirring at ice bath temperature for three hours the precipitate was collected by filtration, washed with water and dried under vacuum to afford the title compound (282 g); m.p. 153°-157° C. (lit m.p. 152°-155° C.; Helv. Chim. Acta., 1954, 37, 1689).

reactant | 3-quinuclidinone hydrochloride | 300 g | Cl.N12CC(C(CC1)CC2)=O
reactant | sodium cyanide | 90.97 g | [C-]#N.[Na+]
solvent | water | 400 ml | O | H2O
solvent | water | 400 ml | O | H2O
product | 3-Cyano-3-hydroxyquinuclidine | 282 g | C(#N)C1(CN2CCC1CC2)O | C8H12N2O
